US05866560
A solution of 74.1 g of 3-acetoxy-7α-(5-acetoxypentyl)-16α-bromo-17,17-ethylenedioxy-estra-1,3,5(10)-triene in 740 ml of dimethyl sulfoxide and 74 ml of methanol is stirred with 74 g of potassium hydroxide for 7.5 hours at a bath temperature of 85° C. Then, it is precipitated with ice/water/common salt, taken up with ethyl acetate, washed neutral, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate. 36.12 g of pure 17,17-ethylenedioxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetraen-3-ol is obtained as foam.

reactant | 3-acetoxy-7α-(5-acetoxypentyl)-16α-bromo-17,17-ethylenedioxy-estra-1,3,5(10)-triene | 74.1 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4C[C@H](C5([C@@]4(C)CC[C@@H]3C2C=C1)OCCO5)Br)CCCCCOC(C)=O | C29H39BrO6
reactant | potassium hydroxide | 74 g | [OH-].[K+]
solvent | dimethyl sulfoxide | 740 ml | CS(=O)C | C2H6OS
solvent | methanol | 74 ml | CO | CH4O
product | 17,17-ethylenedioxy-7α-(5-hydroxypentyl)-estra-1,3,5(10),15-tetraen-3-ol | 36.12 g | C1OC2([C@]3(C)[C@@H](C=C2)[C@@H]2[C@@H](CC=4C=C(C=CC4[C@H]2CC3)O)CCCCCO)OC1 | C25H34O4
